US07696352B2
A mixture of 5-bromo-2-fluoropyridine (630 mg, 3.58 mmol), 4-imidazolecarboxaldehyde (355 mg, 3.70 mmol) and K2CO3 (1.00 g, 7.25 mmol) in DMF (10 mL) was stirred at 70° C. overnight. After being cooled down, H2O was added to induce precipitation. The precipitate was collected and dried on vacuum to give 1-(5-bromopyridin-2-yl)-1H-imidazole-4-carbaldehyde (738 mg).

reactant | 5-bromo-2-fluoropyridine | 3.58 mmol, 630 mg | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | 4-imidazolecarboxaldehyde | 3.70 mmol, 355 mg | N1C=NC(=C1)C=O | C4H4N2O
reactant | K2CO3 | 7.25 mmol, 1.00 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(5-bromopyridin-2-yl)-1H-imidazole-4-carbaldehyde | 738 mg | BrC=1C=CC(=NC1)N1C=NC(=C1)C=O | C9H6BrN3O
